US04282239
4 g of N-(4-[2-(-1-oxo-isoindoline-2-carboxamido)ethyl]-benzenesulfonyl-urea (melting point 207°-209° C., prepared from 4-[2-(1-oxo-isoindoline-2-carboxamido)-ethyl]-benzenesulfonamide and potassium cyanate in 80% ethanol) and 0.73 g of butylamine in 100 ml of dioxane are refluxed for 1 hour. The solvent is then distilled off under reduced pressure, the residue is reprecipitated from very dilute ammonia and recrystallized from dilute acetone. The N-(4-[2-(1-oxo-isoindoline-2-carboxamido)-ethyl]-benzenesulfonyl)-N'-butyl urea obtained melts at 188° to 190° C.

reactant | 4-[2-(-1-oxo-isoindoline-2-carboxamido)ethyl]-benzenesulfonyl-urea | O=C1N(CC2=CC=CC=C12)C(=O)NCCC1=CC=C(C=C1)S(=O)(=O)NC(=O)N | C18H18N4O5S
reactant | butylamine | 0.73 g | C(CCC)N | C4H11N
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | N-(4-[2-(1-oxo-isoindoline-2-carboxamido)-ethyl]-benzenesulfonyl)-N'-butyl urea | O=C1N(CC2=CC=CC=C12)C(=O)NCCC1=CC=C(C=C1)S(=O)(=O)NC(=O)NCCCC | C22H26N4O5S
